US09382228B2
A solution of diisopropyl 2-((1-(trifluoromethyl)cyclopropyl)methyl)malonate (1.53 g, 4.93 mmol) in MeOH (10 mL), dioxane (10 mL) and H2O (10 mL) was treated with NaOH (1.183 g, 29.6 mmol) and heated at 40° C. overnight. The mixture was cooled to RT, the organics removed under reduced pressure, the aqueous residue acidified with 3M HCl, extracted with DCM and the combined organics were dried over Na2SO4 and concentrated to dryness to afford 2-((1-(trifluoromethyl)cyclopropyl)methyl)malonic acid (1.13 g, 101%). 1H NMR (400 MHz, DMSO-d6): δ 12.91 (s, 2H), 3.36-3.34 (t, J=7.09 Hz, 1H), 2.08 (d, J=7.0 Hz, 2H), 0.88 (m, 2H), 0.77 (m, 2H).

reactant | diisopropyl 2-((1-(trifluoromethyl)cyclopropyl)methyl)malonate | 4.93 mmol, 1.53 g | FC(C1(CC1)CC(C(=O)OC(C)C)C(=O)OC(C)C)(F)F | C14H21F3O4
reactant | NaOH | 29.6 mmol, 1.183 g | [OH-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 10 mL | O | H2O
product | 2-((1-(trifluoromethyl)cyclopropyl)methyl)malonic acid | 1.13 g, 101% | FC(C1(CC1)CC(C(=O)O)C(=O)O)(F)F | C8H9F3O4
